US05216173
Preparation of N-Cyano-cis-4-cyclohexene-1,2-dicarboximide
Using a 250 mL round-bottomed flask equipped with a magnetic stir bar and an ice/salt bath, a suspension of cis-4-cyclohexene-1,2-dicarboximide (15.1 g, 100 mmol), cyanogen bromide (11.7 g, 110 mmol), and 100 mL of acetone was cooled to 0° C. Triethylamine (16.0 mL, 115 mmol) was added via syringe over a 12 minute period. The resulting peach slurry was allowed to stir for 15 minutes. The mixture was diluted with ethyl acetate and filtered to remove solid triethylamine hydrobromide. The filter cake was rinsed with ethyl acetate and the filtrate was concentrated using a rotary evaporator. The crude paste was partitioned between water and a 2:1 mixture of ethyl acetate/hexanes. The organic phase was washed with brine, dried (MgSO4), and concentrated to give a light brown solid. The crude product was purified by recrystallization using ethyl acetate/pet ether or ethyl acetate/hexanes to afford 11.5 g (65%) of a glossy off white solid, mp 136°-138° C.: IR (nujol) 2256 (nitrile), 1749 (carbonyl) cm-1 ; 1H NMR (200 MHz, CDCl3) δ 2.30 (ddd, 2, J=15, 4.4, 2.75 Hz), 2.64 (ddd, 2, J=15, 3.8, 2.75 Hz), 3.35 (dd, 2, J=3.5, 2.75 Hz), 5.98 (ddd, 2, J= 3.9, 1.7, 1.5 Hz); 13C NMR (50 MHz, CDCl3) δ 173.48, 127.52, 100.72, 40.08, 23.26; GC/MS m/e (relative intensity) 176 (29.5), 147 (11.1), 107 (20.0), 105 (23.3), 80 (44.0), 79 (100), 78 (35.1).

reactant | cis-4-cyclohexene-1,2-dicarboximide | 100 mmol, 15.1 g | [C@@H]12[C@@H](CC=CC1)C(NC2=O)=O | C8H9NO2
reactant | cyanogen bromide | 110 mmol, 11.7 g | N#CBr | CBrN
reactant | acetone | 100 mL | CC(=O)C | C3H6O
reactant | Triethylamine | 115 mmol, 16.0 mL | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-Cyano-cis-4-cyclohexene-1,2-dicarboximide | C(#N)N1C(=O)[C@@H]2[C@@H](CC=CC2)C1=O | C9H8N2O2
